US07592453B2
(1S*,2R*)-N-phenyl-2-{[(3aR*,4R*,9bR*)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexanecarboxamide (racemate)
To a mixture of the compound (242 mg, 0.75 mmol) synthesized in Reference Example 8, (1S*,2R*)-2-(anilinocarbonyl)cyclohexanecarboxylic acid (222 mg, 0.90 mmol) and triethylamine (0.313 ml, 2.25 mmol) in DMF (7.5 ml) was added DEPC (0.151 ml, 0.90 mmol) at 0° C., and the mixture was stirred at room temperature for 1 hr. Saturated aqueous sodium hydrogen carbonate solution was added, and the reaction mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous Na2SO4. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (2:1, v/v). The title compound (1R*,2S*,3aR*,4R*,9bR*) (163 mg, 45%) was obtained as a white solid from the first eluted fraction

reactant | (1S*,2R*)-2-(anilinocarbonyl)cyclohexanecarboxylic acid | 0.90 mmol, 222 mg | N(C1=CC=CC=C1)C(=O)[C@H]1[C@H](CCCC1)C(=O)O | C14H17NO3
reactant | triethylamine | 2.25 mmol, 0.313 ml | C(C)N(CC)CC | C6H15N
reactant | DEPC | 0.90 mmol, 0.151 ml | CCOC(=O)OC(=O)OCC | C6H10O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | (1S*,2R*)-N-phenyl-2-{[(3aR*,4R*,9bR*)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexanecarboxamide | 163 mg, 45% | C1(=CC=CC=C1)NC(=O)[C@@H]1[C@@H](CCCC1)C(=O)N1CC[C@@H]2[C@@H](NC=3C=CC=CC3[C@@H]21)C2=CC=CC=C2 | C31H33N3O2
